US08809333B2
Step B: (2R)-2-methyl-4-(5-methyl-4-phenyl-1H-1,2,3-triazol-1-yl)-2-(methylsulfonyl)butanoic acid
To a solution of the mixture of ethyl (2R)-2-methyl-4-(5-methyl-4-phenyl-1H-1,2,3-triazol-1-yl)-2-(methylsulfonyl)butanoate and ethyl (2R)-2-methyl-4-(4-methyl-5-phenyl-1H-1,2,3-triazol-1-yl)-2-(methylsulfonyl)butanoate (150 mg, 0.41 mmol, 1 eq) in THF (5 mL) and water (1 mL) was added LiOH (0.41 mmol, 1 eq) and the reaction mixture was allowed to stir at RT overnight. The reaction mixture was acidified with 1M HCl and extracted with CH2Cl2. The organic layer was dried (MgSO4), filtered and concentrated and the crude product was used in the next step without further purification.

reactant | ethyl (2R)-2-methyl-4-(5-methyl-4-phenyl-1H-1,2,3-triazol-1-yl)-2-(methylsulfonyl)butanoate | C[C@](C(=O)OCC)(CCN1N=NC(=C1C)C1=CC=CC=C1)S(=O)(=O)C | C17H23N3O4S
reactant | ethyl (2R)-2-methyl-4-(4-methyl-5-phenyl-1H-1,2,3-triazol-1-yl)-2-(methylsulfonyl)butanoate | 0.41 mmol, 150 mg, 1 eq | C[C@](C(=O)OCC)(CCN1N=NC(=C1C1=CC=CC=C1)C)S(=O)(=O)C | C17H23N3O4S
reactant | LiOH | 0.41 mmol, 1 eq | [Li+].[OH-]
reactant | HCl | 1M | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | (2R)-2-methyl-4-(5-methyl-4-phenyl-1H-1,2,3-triazol-1-yl)-2-(methylsulfonyl)butanoic acid | C[C@](C(=O)O)(CCN1N=NC(=C1C)C1=CC=CC=C1)S(=O)(=O)C | C15H19N3O4S
